US05744475
Synthesis of N-(5-chlorouracil-6-ylmethyl)-acetamidine hydrochloride (Compound 73)
To a solution of 705 mg of ethyl acetoimidate hydrochloride in N,N-dimethylformamide (12 ml), 500 mg of 6-aminomethyl-5-chlorouracil wereadded, followed by stirring at room temperature for 13 hours. After the reaction mixture was allowed to cool down, a crystallized matter was collected by filtration and then washed with a 10% solution of hydrochloric acid in methanol, whereby 190 mg of the title compound were obtained (yield: 26%).

reactant | ethyl acetoimidate hydrochloride | 705 mg | Cl.C(C)(OCC)=N
reactant | 6-aminomethyl-5-chlorouracil | 500 mg | NCC1=C(C(NC(N1)=O)=O)Cl | C5H6ClN3O2
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | N-(5-chlorouracil-6-ylmethyl)-acetamidine hydrochloride | 190 mg, yield: 26% | Cl.ClC=1C(NC(NC1CNC(C)=N)=O)=O | InChI=1S/C7H9ClN4O2.ClH/c1-3(9)10-2-4-5(8)6(13)12-7(14)11-4;/h2H2,1H3,(H2,9,10)(H2,11,12,13,14);1H
